US07666879B2
7-(1H-[1,2,3]Triazol-4-yl)-imidazo[1,2-a]pyridine
Combine 7-ethynyl-imidazo[1,2-a]pyridine (1.10 g, 7.74 mmol), copper (I) iodide (0.074 g, 0.387 mmol), and trimethylsilyl azide (1.53 mL, 11.61 mmol) in a 9:1 mixture of DMF:methanol (13.8 mL) in a pressure flask. Seal the flask with a Teflon screw cap and heat the reaction mixture to 100° C., stir overnight (15 hours), and cool to room temperature. Concentrate the mixture to dryness in vacuo. Slurry the resulting solid into dichloromethane and filter through Celite® 521. Concentrate the solution in vacuo to an orange solid. Purify by column chromatography (ethyl acetate→5% methanol in dichloromethane→8% methanol in dichloromethane) to afford product (0.82 g, 57%). MS(ES), m/z 186 (M+1).

reactant | 7-ethynyl-imidazo[1,2-a]pyridine | 7.74 mmol, 1.10 g | C(#C)C1=CC=2N(C=C1)C=CN2 | C9H6N2
reactant | trimethylsilyl azide | 11.61 mmol, 1.53 mL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | copper (I) iodide | 0.387 mmol, 0.074 g | [Cu]I
solvent | methanol | 13.8 mL | CO | CH4O
product | 7-(1H-[1,2,3]Triazol-4-yl)-imidazo[1,2-a]pyridine | 0.82 g, 57% | N1N=NC(=C1)C1=CC=2N(C=C1)C=CN2 | C9H7N5
